US08580824B2
To a solution of 3-ethyl-4-hydroxy-5-methyl-benzoic acid (80.3 g, 0.446 mol) is DMF (500 mL), KHCO3 (53.5 g, 0.535 mol) followed by benzylbromide (114.3 g, 0.668 mol) is added. The mixture is stirred at 50° C. for 18 h before it is cooled to rt, diluted with water (250 mL), and extracted with TBME (2×250 mL). The org. extracts are washed with water, and then concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 19:1 to 9:1 to give 3-ethyl-4-hydroxy-5-methyl-benzoic acid benzyl ester (108.5 g) as a beige solid; 1H NMR (CDCl3): δ 1.28 (t, J=7.5 Hz, 3 H), 2.30 (s, 3 H), 2.68 (q, J=7.8 Hz, 2 H), 5.24 (s, 1 H), 5.37 (s, 2 H), 7.33-7.45 (m, 3 H), 7.45-7.50 (m, 2 H), 7.77 (s, 1 H), 7.79 (s, 1 H).

reactant | 3-ethyl-4-hydroxy-5-methyl-benzoic acid | 0.446 mol, 80.3 g | C(C)C=1C=C(C(=O)O)C=C(C1O)C | C10H12O3
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
reactant | benzylbromide | 0.668 mol, 114.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 250 mL | O | H2O
product | 3-ethyl-4-hydroxy-5-methyl-benzoic acid benzyl ester | 108.5 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C(=C1)C)O)CC)=O | C17H18O3
